US04642308
The procedure is similar to that described in Example 37, but starting with 2-amino-7-chloro-1,8-naphthyridine (18 g), 2-fluorophenol (44.8 g) and potassium hydroxide pellets (13.2 g; 85% purity). After treatment with caustic soda and washing, the product produced (24 g; m.p. 202° C.) is dissolved in boiling ethanol (200 cc). After 16 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with ethanol (2×15 cc) and dried at 40° C. under reduced pressure (0.067 kPa). 2-Amino-7-(2-fluorophenoxy)-1,8-naphthyridine (14.9 g) is produced, m.p. 206° C.

reactant | 2-amino-7-chloro-1,8-naphthyridine | 18 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | 2-fluorophenol | 44.8 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 200 cc | C(C)O | C2H6O
product | 2-Amino-7-(2-fluorophenoxy)-1,8-naphthyridine | 14.9 g | NC1=NC2=NC(=CC=C2C=C1)OC1=C(C=CC=C1)F | C14H10FN3O
